US05599816
Step 2: 4-Chloro-5-fluoro-2-(4-fluorobenzyl)-pyrimidine
A mixture of 1.93 g (8.7 mmol) of 5-fluoro-2-(4-fluorobenzyl)-4-hydroxypyrimidine, from Step 1, and 15 mL of phosphorus oxychloride was heated in an oil bath at 90° C. for 1.5 hours and then concentrated in vacuo. The residue was triturated with 75 mL of ice water and the aqueous mixture was adjusted to pH 8-9 by the addition of solid sodium bicarbonate. The mixture was extracted with 3×70 mL of methylene chloride. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to a light brown residue. The residue was purified by flash chromatography on a 230-400 mesh silica gel column (4.8×14.6 cm) eluted with hexane:methylene chloride (1:1 v/v) to afford 1.94 g (90% yield) of the title compound; MS DCI-NH3M/Z: 241 (M+H)+ ; 1H NMR (CDCl3) d 4.22 (s, 2H), 7.00 (m, 2H), 7.30 (m, 2H), 8.48 (s, 1H).

reactant | 5-fluoro-2-(4-fluorobenzyl)-4-hydroxypyrimidine | 8.7 mmol, 1.93 g | FC=1C(=NC(=NC1)CC1=CC=C(C=C1)F)O | C11H8F2N2O
reactant | phosphorus oxychloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-fluoro-2-(4-fluorobenzyl)-pyrimidine | 1.94 g, 90% yield | ClC1=NC(=NC=C1F)CC1=CC=C(C=C1)F | C11H7ClF2N2
